US03972926
The triphenylphosphonium salt of benzyl chloride (38.9 g., 0.10 mole) is added to a solution of sodium (3.0 g.) in ethanol (200 ml.). The resulting solution is treated with 2-nitrobenzaldehyde (16 g., 0.10 mole) and stirred overnight. The mixture is filtered, washed with water and extracted with dichloromethane. The extracts are evaporated to a dark residue which is extracted with carbon tetrachloride, then these extracts are concentrated and passed through a column of alumina, eluting with hexane and carbon tetrachloride to give a yellow oil, 2-nitrostilbene.

reactant | triphenylphosphonium | C1(=CC=CC=C1)[PH+](C1=CC=CC=C1)C1=CC=CC=C1
reactant | benzyl chloride | 0.10 mole, 38.9 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | sodium | 3.0 g | [Na] | Na
reactant | 2-nitrobenzaldehyde | 0.10 mole, 16 g | [N+](=O)([O-])C1=C(C=O)C=CC=C1 | C7H5NO3
solvent | ethanol | 200 ml | C(C)O | C2H6O
product | 2-nitrostilbene | [N+](=O)([O-])C1=C(C=CC=C1)C=CC1=CC=CC=C1 | C14H11NO2
